US07507832B2
2-Methyl-2-(4-{3-[5-(4-trifluoromethyl-phenyl)-2H-[1,2,4]triazol-3-yl]-propyl}-phenoxy)-propionic acid tert-butyl ester
Add 4-(trifluoromethyl)benzonitrile (0.51 g, 3.0 mol) and potassium tert-butoxide (0.023 g, 0.21 mmol) to a solution of 2-[4-(3-Hydrazinocarbonyl-propyl)-phenoxy]-2-methyl-propionic acid tert-butyl ester (0.5 g, 1.5 mmol) in MeOH (5 mL). Stir the mixture at reflux overnight. Add an additional 0.2 equivalents of potassium tert-butoxide and stir the reaction for 24 h. Quench the crude with water, remove the MeOH in vacuo, and extract the aqueous layer with EtOAc. Separate the organic layer, dry with MgSO4, and concentrate in vacuo. Purify the crude by Biotage (Hexane/EtOAc 4:1) yielding 0.32 g (44%) of the title compound, example 10 as a pale yellow oil. MS Data (ES+) m/z 490.6 [M+H]

reactant | 4-(trifluoromethyl)benzonitrile | 3.0 mol, 0.51 g | FC(C1=CC=C(C#N)C=C1)(F)F | C8H4F3N
reactant | potassium tert-butoxide | 0.21 mmol, 0.023 g | CC(C)([O-])C.[K+]
reactant | 2-[4-(3-Hydrazinocarbonyl-propyl)-phenoxy]-2-methyl-propionic acid tert-butyl ester | 1.5 mmol, 0.5 g | C(C)(C)(C)OC(C(C)(C)OC1=CC=C(C=C1)CCCC(=O)NN)=O | C18H28N2O4
reactant | potassium tert-butoxide | 0.2 equivalents | CC(C)([O-])C.[K+]
solvent | MeOH | 5 mL | CO | CH4O
product | 2-Methyl-2-(4-{3-[5-(4-trifluoromethyl-phenyl)-2H-[1,2,4]triazol-3-yl]-propyl}-phenoxy)-propionic acid tert-butyl ester | 0.32 g, 44% | C(C)(C)(C)OC(C(C)(OC1=CC=C(C=C1)CCCC=1NN=C(N1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C26H30F3N3O3
